***********************************************************************
*  (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD88539ND
* Date: 02/10/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS456 - FEBRUARY 2014
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
*                                                                    *
* CSD88539ND  -  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
*$
**********************************************************************
* SUBCKT Definition:  csd88539nd: 1=s1 2=g1 3=s2 4=g2 5=d2 6=d2 7=d1 8=d1
**********************************************************************
.subckt CSD88539ND 1 2 3 4 5 6 7 8
rd11	7	d1i	2.6e-3
rd12	8	d1i	2.6e-3
x1		d1i	2	1	n18539n
rd21	5	d2i	2.6e-3
rd22	6	d2i	2.6e-3
x2		d2i	4	3	n18539n
.ends	CSD88539ND
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.0955000E-09	)
+	(	0.5	1.0961000E-09	)
+	(	1	1.0958000E-09	)
+	(	1.5	1.0937000E-09	)
+	(	2	1.0920300E-09	)
+	(	2.5	1.0912300E-09	)
+	(	3	1.0903400E-09	)
+	(	3.5	1.0893600E-09	)
+	(	4	1.0893000E-09	)
+	(	4.5	1.0891700E-09	)
+	(	5	1.0889400E-09	)
+	(	5.5	1.0896000E-09	)
+	(	6	1.0891600E-09	)
+	(	6.5	1.0896700E-09	)
+	(	7	1.0903700E-09	)
+	(	7.5	1.0920100E-09	)
+	(	8	1.0936100E-09	)
+	(	8.5	1.1058400E-09	)
+	(	9	1.1298300E-09	)
+	(	9.5	1.1295900E-09	)
+	(	10	1.1291500E-09	)
+	(	10.5	1.1286100E-09	)
+	(	11	1.1290200E-09	)
+	(	11.5	1.1283700E-09	)
+	(	12	1.1276900E-09	)
+	(	12.5	1.1279900E-09	)
+	(	13	1.1272600E-09	)
+	(	13.5	1.1275100E-09	)
+	(	14	1.1277500E-09	)
+	(	14.5	1.1269700E-09	)
+	(	15	1.1271700E-09	)
+	(	15.5	1.1273700E-09	)
+	(	16	1.1265500E-09	)
+	(	16.5	1.1267300E-09	)
+	(	17	1.1269000E-09	)
+	(	17.5	1.1260710E-09	)
+	(	18	1.1262320E-09	)
+	(	18.5	1.1263900E-09	)
+	(	19	1.1265430E-09	)
+	(	19.5	1.1256940E-09	)
+	(	20	1.1258380E-09	)
+	(	20.5	1.1259780E-09	)
+	(	21	1.1261180E-09	)
+	(	21.5	1.1252530E-09	)
+	(	22	1.1253880E-09	)
+	(	22.5	1.1255180E-09	)
+	(	23	1.1256450E-09	)
+	(	23.5	1.1247710E-09	)
+	(	24	1.1248920E-09	)
+	(	24.5	1.1250110E-09	)
+	(	25	1.1251300E-09	)
+	(	25.5	1.1242430E-09	)
+	(	26	1.1243540E-09	)
+	(	26.5	1.1244630E-09	)
+	(	27	1.1245680E-09	)
+	(	27.5	1.1236710E-09	)
+	(	28	1.1237720E-09	)
+	(	28.5	1.1238670E-09	)
+	(	29	1.1239620E-09	)
+	(	29.5	1.1230530E-09	)
+	(	30	1.1231420E-09	)
+	(	30.5	1.1232260E-09	)
+	(	31	1.1233050E-09	)
+	(	31.5	1.1223830E-09	)
+	(	32	1.1224580E-09	)
+	(	32.5	1.1225270E-09	)
+	(	33	1.1225930E-09	)
+	(	33.5	1.1216560E-09	)
+	(	34	1.1217120E-09	)
+	(	34.5	1.1217670E-09	)
+	(	35	1.1218190E-09	)
+	(	35.5	1.1218670E-09	)
+	(	36	1.1209120E-09	)
+	(	36.5	1.1209530E-09	)
+	(	37	1.1209930E-09	)
+	(	37.5	1.1210280E-09	)
+	(	38	1.1210640E-09	)
+	(	38.5	1.1200950E-09	)
+	(	39	1.1201270E-09	)
+	(	39.5	1.1201570E-09	)
+	(	40	1.1201840E-09	)
+	(	40.5	1.1202100E-09	)
+	(	41	1.1192350E-09	)
+	(	41.5	1.1192600E-09	)
+	(	42	1.1192820E-09	)
+	(	42.5	1.1193030E-09	)
+	(	43	1.1193240E-09	)
+	(	43.5	1.1183440E-09	)
+	(	44	1.1183620E-09	)
+	(	44.5	1.1183800E-09	)
+	(	45	1.1183970E-09	)
+	(	45.5	1.1174120E-09	)
+	(	46	1.1174280E-09	)
+	(	46.5	1.1174440E-09	)
+	(	47	1.1174570E-09	)
+	(	47.5	1.1174710E-09	)
+	(	48	1.1174850E-09	)
+	(	48.5	1.1164980E-09	)
+	(	49	1.1165110E-09	)
+	(	49.5	1.1165220E-09	)
+	(	50	1.1165350E-09	)
+	(	50.5	1.1155440E-09	)
+	(	51	1.1155550E-09	)
+	(	51.5	1.1155650E-09	)
+	(	52	1.1155760E-09	)
+	(	52.5	1.1155860E-09	)
+	(	53	1.1145950E-09	)
+	(	53.5	1.1146040E-09	)
+	(	54	1.1146130E-09	)
+	(	54.5	1.1146210E-09	)
+	(	55	1.1146300E-09	)
+	(	55.5	1.1136380E-09	)
+	(	56	1.1136460E-09	)
+	(	56.5	1.1136540E-09	)
+	(	57	1.1136610E-09	)
+	(	57.5	1.1136690E-09	)
+	(	58	1.1126750E-09	)
+	(	58.5	1.1126820E-09	)
+	(	59	1.1126890E-09	)
+	(	59.5	1.1126950E-09	)
+	(	60	1.1127010E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)*1/1.63}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	5.69E-11	)
+	(	1	4.92E-11	)
+	(	2	4.35E-11	)
+	(	3	3.93E-11	)
+	(	4	3.59E-11	)
+	(	5	3.32E-11	)
+	(	6	3.06E-11	)
+	(	7	2.83E-11	)
+	(	8	2.23E-11	)
+	(	9	9.89E-12	)
+	(	10	8.84E-12	)
+	(	11	8.40E-12	)
+	(	12	8.05E-12	)
+	(	13	7.74E-12	)
+	(	14	7.45E-12	)
+	(	15	7.19E-12	)
+	(	16	6.94E-12	)
+	(	17	6.69E-12	)
+	(	18	6.46E-12	)
+	(	19	6.24E-12	)
+	(	20	6.02E-12	)
+	(	21	5.81E-12	)
+	(	22	5.61E-12	)
+	(	23	5.41E-12	)
+	(	24	5.23E-12	)
+	(	25	5.05E-12	)
+	(	26	4.88E-12	)
+	(	27	4.71E-12	)
+	(	28	4.55E-12	)
+	(	29	4.40E-12	)
+	(	30	4.27E-12	)
+	(	31	4.14E-12	)
+	(	32	4.03E-12	)
+	(	33	3.93E-12	)
+	(	34	3.85E-12	)
+	(	35	3.77E-12	)
+	(	36	3.71E-12	)
+	(	37	3.66E-12	)
+	(	38	3.61E-12	)
+	(	39	3.57E-12	)
+	(	40	3.53E-12	)
+	(	41	3.50E-12	)
+	(	42	3.47E-12	)
+	(	43	3.44E-12	)
+	(	44	3.42E-12	)
+	(	45	3.40E-12	)
+	(	46	3.38E-12	)
+	(	47	3.36E-12	)
+	(	48	3.35E-12	)
+	(	49	3.33E-12	)
+	(	50	3.32E-12	)
+	(	51	3.30E-12	)
+	(	52	3.29E-12	)
+	(	53	3.28E-12	)
+	(	54	3.27E-12	)
+	(	55	3.26E-12	)
+	(	56	3.25E-12	)
+	(	57	3.25E-12	)
+	(	58	3.24E-12	)
+	(	59	3.23E-12	)
+	(	60	3.23E-12	)
r2	6	0	1e6
c1	3	7	1e-21
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e21*v(6,0)*v(8,0)/2}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	6.73E-10	)
+	(	1	5.69E-10	)
+	(	2	4.87E-10	)
+	(	3	4.28E-10	)
+	(	4	3.85E-10	)
+	(	5	3.51E-10	)
+	(	6	3.24E-10	)
+	(	7	2.98E-10	)
+	(	8	2.40E-10	)
+	(	9	1.61E-10	)
+	(	10	1.49E-10	)
+	(	11	1.39E-10	)
+	(	12	1.30E-10	)
+	(	13	1.23E-10	)
+	(	14	1.17E-10	)
+	(	15	1.11E-10	)
+	(	16	1.06E-10	)
+	(	17	1.01E-10	)
+	(	18	9.72E-11	)
+	(	19	9.34E-11	)
+	(	20	8.99E-11	)
+	(	21	8.68E-11	)
+	(	22	8.39E-11	)
+	(	23	8.12E-11	)
+	(	24	7.88E-11	)
+	(	25	7.66E-11	)
+	(	26	7.45E-11	)
+	(	27	7.27E-11	)
+	(	28	7.10E-11	)
+	(	29	6.95E-11	)
+	(	30	6.81E-11	)
+	(	31	6.69E-11	)
+	(	32	6.57E-11	)
+	(	33	6.46E-11	)
+	(	34	6.37E-11	)
+	(	35	6.28E-11	)
+	(	36	6.19E-11	)
+	(	37	6.12E-11	)
+	(	38	6.05E-11	)
+	(	39	5.98E-11	)
+	(	40	5.92E-11	)
+	(	41	5.87E-11	)
+	(	42	5.82E-11	)
+	(	43	5.77E-11	)
+	(	44	5.72E-11	)
+	(	45	5.68E-11	)
+	(	46	5.64E-11	)
+	(	47	5.61E-11	)
+	(	48	5.57E-11	)
+	(	49	5.54E-11	)
+	(	50	5.51E-11	)
+	(	51	5.48E-11	)
+	(	52	5.46E-11	)
+	(	53	5.43E-11	)
+	(	54	5.41E-11	)
+	(	55	5.39E-11	)
+	(	56	5.37E-11	)
+	(	57	5.35E-11	)
+	(	58	5.34E-11	)
+	(	59	5.32E-11	)
+	(	60	5.30E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT n18539n  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    7.00e-3  
 .PARAM  ptrc2    1.6e-5
 .PARAM  pwidthP  0.97
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	11	10	1	3	cgd
cgs	11	8	0.252e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {pwidthP/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 7.0
RSB  12  9	 RTEMP {0.23166e-3/2.02*3.67}
R   9  8 	 RTEMP {0.23166e-3/2.02*3.67}
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP {6.25e-3/2.02*3.67-5.02e-3+9.75e-3}
RDP   4  7	 {0.5e-3+1.42e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.205        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.20
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.560e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18	gamma	=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=7.0e-12 N=1.06 RS=0.5125e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS n18539n
*$